US07119107B2
Preparation of 2-benzyloxy-6-cyano-3-methylpyridine
To a solution of 2-bromo-6-cyano-3-methylpyridine (272 mg) and benzyl alcohol (156 mg) in tetrahydrofuran (20 mL) was added sodium hydride (40 mg), and the mixture was heated under reflux for one hour. The reaction mixture was cooled to room temperature, diluted with ethyl acetate, washed successively with saturated aqueous sodium bicarbonate and saturated brine, and dried over anhydrous sodium sulfate. After removal of the sodium sulfate by filtration, the organic solvent was evaporated off in vacuo. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=19:1) to give the title compound (161 mg) as a colorless liquid.

reactant | 2-bromo-6-cyano-3-methylpyridine | 272 mg | BrC1=NC(=CC=C1C)C#N | C7H5BrN2
reactant | benzyl alcohol | 156 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 40 mg | [H-].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-benzyloxy-6-cyano-3-methylpyridine | 161 mg | C(C1=CC=CC=C1)OC1=NC(=CC=C1C)C#N | C14H12N2O
